US07547710B2
3-(aminomethyl)-2-isobutyl-4-phenylquinoline-6-carboxylic Acid Dihydrochloride
To a solution of 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-phenylquinoline-6-carboxylic acid (0.10 g, 0.23 mmol) in tetrahydrofuran (4 ml) was added 4N solution of hydrogen chloride in ethyl acetate (4 ml), and the mixture was stirred at room temperature for 4 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from diisopropyl ether-ethyl acetate to give the title compound (0.078 g, yield 82%) as colorless crystals.

reactant | 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-phenylquinoline-6-carboxylic acid | 0.23 mmol, 0.10 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)O)CC(C)C | C26H30N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-2-isobutyl-4-phenylquinoline-6-carboxylic Acid Dihydrochloride | 0.078 g, yield 82% | Cl.Cl.NCC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)O)CC(C)C | InChI=1S/C21H22N2O2.2ClH/c1-13(2)10-19-17(12-22)20(14-6-4-3-5-7-14)16-11-15(21(24)25)8-9-18(16)23-19;;/h3-9,11,13H,10,12,22H2,1-2H3,(H,24,25);2*1H
